US05192759
Preparation of 1-(1,2,3,4-tetrahydro-6,7-dimethoxy-2-naphtyl)-4-hydroxypyrrolidin-2-one (ST 618)
To N-(3-carboxy-2-hydroxypropyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-2-napthylamine hydrocloride (ST 576, prepared as described in the Italian patent application 47652A/88) (1 g, 2.89 mmoles) in xylene (40 mL), 1.2 mL HMDS and TMSCI (few drops) were added. The resulting mixture was refluxed under stirring for 24 hours. Xylene was evaporated, the residue was taken up with EtOH (40 mL) and 1N HCl in isopropanol (1 mL) was added thereto. After 5 minutes, NaHCO3 was added till neutrality, the mixture was filtered and the filtrate evaporated. The residue was chromatographed on silica gel using EtOAc--MeOH (95:5) as eluant. 600 mg of the title compound were obtained. Yield 71%.

reactant | N-(3-carboxy-2-hydroxypropyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-2-napthylamine hydrocloride | Cl.C(=O)(O)CC(CNC1CC2=CC(=C(C=C2CC1)OC)OC)O
reactant | HMDS | 1.2 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
solvent | xylene | 40 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(1,2,3,4-tetrahydro-6,7-dimethoxy-2-naphtyl)-4-hydroxypyrrolidin-2-one | 600 mg, Yield 71% | COC=1C=C2CCC(CC2=CC1OC)N1C(CC(C1)O)=O | C16H21NO4
